US04435391
A mixture of 2 g of ethyl 10,11-dihydro-4-methoxydibenz-[b,f][1,4]oxazepine-8-carboxylate, 2 g of chloranil and 30 ml of xylene was refluxed for 3 hours, and the solvent was distilled off under vacuum. The residue was subjected to chromatography on silica gel to give 1.8 g of ethyl 4-methoxydibenz[b,f][1,4]oxazepine-8-carboxylate. The melting point and elemental analysis of the product were the same as those of a mixture with the product obtained in Example 1.

reactant | ethyl 10,11-dihydro-4-methoxydibenz-[b,f][1,4]oxazepine-8-carboxylate | 2 g | COC1=CC=CC=2CNC3=C(OC21)C=CC(=C3)C(=O)OCC | C17H17NO4
reactant | chloranil | 2 g | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl | C6Cl4O2
solvent | xylene | 30 ml | C=1(C(=CC=CC1)C)C | C8H10
product | ethyl 4-methoxydibenz[b,f][1,4]oxazepine-8-carboxylate | 1.8 g | COC1=CC=CC=2C=NC3=C(OC21)C=CC(=C3)C(=O)OCC | C17H15NO4
